US04690943
1-Acetyl-3-([2-thienyl]acetyl)-2-oxindole
A stirred mixture of 1.29 g (5.0 mmole) of 3-([2-thienyl]acetyl)-2-oxindole, 1.22 g (10.0 mmole) of 4-(N,N-dimethylamino)pyridine and 15 ml of N,N-dimethylformamide was cooled in an ice-bath, and then 562 mg (5.5 mmole) of acetic anhydride was added dropwise, with stirring, during 1 minute. Stirring was continued for 3.25 hours at ice-bath temperature, and then the reaction mixture was filtered. The filtrate was poured onto a mixture of 3N hydrochloric acid and water, which caused formation of a solid and a gum. The solid was recovered by filtration and the gum was recovered by decantation. The gum was triturated under isopropanol-water giving further solid material, which was also recovered by filtration. The two solids were combined and extracted with hot benzene, leaving a dark, gummy residue. The benzene solution was cooled and evaporated in vacuo, and the residue was recrystallized from toluene to give 66 mg of the title compound, m.p. 136°-137° C. The mother liquors from the recrystallization were evaporated in vacuo and the latter residue was recrystallized from hexane to give a second crop, 90 mg, of the title compound, m.p. 135°-136° C. The second crop was submitted to elemental analysis.

reactant | 3-([2-thienyl]acetyl)-2-oxindole | 5.0 mmole, 1.29 g | S1C(=CC=C1)CC(=O)C1C(NC2=CC=CC=C12)=O | C14H11NO2S
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | acetic anhydride | 5.5 mmole, 562 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(N,N-dimethylamino)pyridine | 10.0 mmole, 1.22 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-3-([2-thienyl]acetyl)-2-oxindole | 66 mg | C(C)(=O)N1C(C(C2=CC=CC=C12)C(CC=1SC=CC1)=O)=O | C16H13NO3S
